US08378104B2
Step B: 2-methoxymethyl-benzothiazole
A mixture of 2-iodoaniline (5 g, 22.8 mmol), 2-methoxy-thioacetamide (2.4 g, 22.8 mmol), calcium oxide (1.28 g, 22.8 mmol), tris(dibenzylideneacetone)dipalladium-chloroform adduct (104 mg, 0.114 mmol), diphenylphosphinoferrocine (253 mg, 0.456 mmol) and DMF (23 mL) was stirred at 60° C. for 2 h under nitrogen. The resulting mixture was purified by column chromatography (10 to 20% ethyl acetate:hexanes) to afford 2.5 g (61%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 8.01-7.9 (m, 1H), 7.98-7.89 (m, 1H), 7.50-7.45 (m, 1H), 7.41-7.38 (m, 1H), 4.86 (s, 2H), 3.54 (s, 3H).

reactant | 2-iodoaniline | 22.8 mmol, 5 g | IC1=C(N)C=CC=C1 | C6H6IN
reactant | 2-methoxy-thioacetamide | 22.8 mmol, 2.4 g | COCC(=S)N | C3H7NOS
reactant | calcium oxide | 22.8 mmol, 1.28 g | [O-2].[Ca+2]
catalyst | tris(dibenzylideneacetone)dipalladium-chloroform adduct | 0.114 mmol, 104 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
solvent | DMF | 23 mL | CN(C)C=O | C3H7NO
product | 2-methoxymethyl-benzothiazole | 2.5 g, 61% | COCC=1SC2=C(N1)C=CC=C2 | C9H9NOS
